US05236884
Triethylamine (22.3 g, 30.6 mL, 0.22 mol) was added to a suspension of N,N-diethyl-p-phenylenediamine hydrochloride (20 g, 0.1 mol) in dichloromethane (150 mL) at room temperature. The mixture was cooled to 0° C. and acetyl chloride (7.85 g, 0.1 mol) was added dropwise, with stirring. The mixture was allowed to warm to room temperature, and the precipitate which had formed was removed by filtration. The solid residue was washed with dichloromethane, and the combined dichloromethane solutions were concentrated. The dark oil produced was triturated with hexanes (100 mL) to afford a light brown crystalline solid, which was purified by recrystallization from 50% aqueous ethanol to afford the N-acetyl-4-diethylaminoaniline (16.5 g, 80% yield) as a gray solid. The structure of this compound was confirmed by mass spectroscopy and by 1H NMR spectroscopy.

reactant | Triethylamine | 0.22 mol, 30.6 mL, 22.3 g | C(C)N(CC)CC | C6H15N
reactant | N,N-diethyl-p-phenylenediamine hydrochloride | 0.1 mol, 20 g | Cl.C(C)N(C1=CC=C(C=C1)N)CC
reactant | acetyl chloride | 0.1 mol, 7.85 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-acetyl-4-diethylaminoaniline | 16.5 g, 80% yield | C(C)(=O)NC1=CC=C(C=C1)N(CC)CC | C12H18N2O
